US04297516
4-(1'-Fluorovinyl)-4-trimethylsilyloxy-1-octyne
To a stirred 0° C. solution of 13.7 g. of 4-(1-fluorovinyl)-4-hydroxy-1-octyne and 16.1 g. of imidazole in 60 ml. of anhydrous dimethylformamide is added, via a syringe over a 3 minute period, 11.6 ml. of chlorotrimethylsilane. The resulting solution is stirred at room temperature for 18 hours, cooled to 0° C., diluted with 350 ml. of petroleum ether and shaken with 150 ml. of water. The organic phase is separated, washed with six 50 ml. portions of water, then 50 ml. of brine, dried over magnesium sulfate and concentrated in vacuo giving 18.9 g. of the desired product as a colorless liquid.

reactant | 4-(1-fluorovinyl)-4-hydroxy-1-octyne | FC(=C)C(CC#C)(CCCC)O | C10H15FO
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | water | O | H2O
product | 4-(1'-Fluorovinyl)-4-trimethylsilyloxy-1-octyne | FC(=C)C(CC#C)(CCCC)O[Si](C)(C)C | C13H23FOSi
